US04876346
(A) (R)-3-Hydroxy-α-[[methyl-(2-propynyl)amino]methyl]benzene methanol
To a mixture of 20 g (0.098 mol) of R(-)phenylephrine hydrochloride, 20 g (0.2 mol) triethylamine and 300 ml of tetrahydrofuran is added a mixture of 12 g (0.1 mol) of propargyl bromide and 3 g of toluene over a period of 1/2 hour. The mixture is stirred for 16 hours and poured into water and ethyl acetate. The ethyl acetate is separated and the aqueous phase is extracted twice with ethyl acetate. The combined ethyl acetate is washed twice with dilute aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated to obtain crystals (14 g) m.p. 102°-103° C. The crystals are dissolved in hot ethyl acetate and the solution is diluted with hexane to obtain crystals (8.8 g) m.p. 102°-103° C.

reactant | triethylamine | 0.2 mol, 20 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
reactant | propargyl bromide | 0.1 mol, 12 g | C(C#C)Br | C3H3Br
reactant | toluene | 3 g | C1(=CC=CC=C1)C | C7H8
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (R)-3-Hydroxy-α-[[methyl-(2-propynyl)amino]methyl]benzene methanol | 14 g | OC=1C=C(C=CC1)[C@@H](O)CN(CC#C)C | C12H15NO2
